US04997847
(i) 9-(4-Chlorobenzenesulphonamido)nonanenitrile
A solution of 9-aminononanenitrile (2.0 g) in pyridine (60 ml) was treated with 4-chlorobenzenesulphonyl chloride (2.74 g) in portions. The solution was stirred for 18 hours then the solvent was removed in vacuo. The residue was dissolved in dilute hydrochloric acid and extracted with chloroform. The chloroform extract was dried over magnesium sulphate, the solvent was removed and the residue was chromatographed on silica gel eluted with chloroform to give the title compound (0.7 g) as a low melting solid.

reactant | 9-aminononanenitrile | 2.0 g | NCCCCCCCCC#N | C9H18N2
reactant | 4-chlorobenzenesulphonyl chloride | 2.74 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 9-(4-Chlorobenzenesulphonamido)nonanenitrile | 0.7 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCCCCC#N | C15H21ClN2O2S
